.options savecurrents

* PHILIPS BJT'S
.MODEL BC557A PNP(IS=2.059E-14 ISE=2.971f ISC=1.339E-14 XTI=3 BF=227.3 BR=7.69 IKF=0.08719 IKR=0.07646 XTB=1.5 VAF=37.2 VAR=11.42 VJE=0.5912 VJC=0.1 RE=0.688 RC=0.6437 RB=1 RBM=1 IRB=1E-06 CJE=1.4E-11 CJC=1.113E-11 XCJC=0.6288 FC=0.7947 NF=1.003 NR=1.007 NE=1.316 NC=1.15 MJE=0.3572 MJC=0.3414 TF=7.046E-10 TR=1m2 ITF=0.1947 VTF=5.367 XTF=4.217 EG=1.11)
.MODEL BC547A NPN(IS=1.533E-14 ISE=7.932E-16 ISC=8.305E-14 XTI=3 BF=178.7 BR=8.628 IKF=0.1216 IKR=0.1121 XTB=1.5 VAF=69.7 VAR=44.7 VJE=0.4209 VJC=0.2 RE=0.6395 RC=0.6508 RB=1 RBM=1 IRB=1E-06 CJE=1.61E-11 CJC=4.388p XCJC=0.6193 FC=0.7762 NF=1.002 NR=1.004 NE=1.436 NC=1.207 MJE=0.3071 MJC=0.2793 TF=4.995E-10 TR=1m2 ITF=0.7021 VTF=3.523 XTF=139 EG=1.11)




Vcc vcc 0 12.0
Vin in 0 0 ac 1.0 sin(0 10m 1k)
Rin in in2 100

* input coupling capacitor
Ci in2 base 3m

* bias circuit
R1 vcc base 240k
R2 base 0 60k

* gain stage
Q1 coll base emit BC547A
Rc vcc coll 1k
*Rc a 0.1k aumenta muito o merito mas reduz o ganho (aumenta a bandwidth na gama das freq. altas - eu nao o comprava - discutir com o pai)
Re emit 0 80

* bypass capacitor
Cb emit 0 6m


* output stage
Q2 0 coll emit2 BC557A
Rout emit2 vcc 30

* output coupling capacitor
Co emit2 out 1000u

* load
RL out 0 8

.op
.end

.control

*makes plots in color
set hcopypscolor=1
set color0=white
set color1=black
set color2=red
set color3=blue
set color4=violet
set color5=rgb:3/8/0
set color6=rgb:4/0/0

op
echo "op_TAB"
print v(base)
print v(coll)
print v(emit)
print v(emit2)
print v(out)
echo "op_END"

* time analysis
tran 1e-5 1e-2
plot v(coll)
plot v(in)
plot v(out)
hardcopy vcoll.eps v(coll)
hardcopy vout.eps v(out)
hardcopy vin.eps v(in)
hardcopy vin2.eps v(in2)

* frequency analysis
ac dec 10 10 100MEG
plot vdb(coll)
plot vp(coll)
hardcopy vdbcoll.eps vdb(coll)
hardcopy vpcoll.eps vp(coll)

plot vdb(out)
plot vp(out)
hardcopy vdbout.eps vdb(out)
hardcopy vpout.eps vp(out)


*merit
let cost = 0.2  +3000+ 240 + 60 + 1 + 80*0.001 +6000 +30*0.001+ 1000


let gain =  real(vecmax(-v(out)/v(in2)))

let  cutoff = vecmax(vdb(out))-3
meas ac flow WHEN vdb(out)=cutoff RISE=1
meas ac f2 WHEN vdb(out)=cutoff CROSS=LAST
let bandwidth = f2-flow


let merit = (gain*bandwidth)/(cost*flow)
write meritex.txt merit

echo "merit_TAB"
print cost
print gain
print flow
print bandwidth
print merit
echo "merit_END"


*input impedance in kohm
*print all

*plot abs(v(in2)[40]/vin#branch[40])
let zi = real(-v(in2)[40]/vin#branch[40])
echo "zi_TAB"
print zi
echo "zi_END"

*need a different setup to measure output impedance

.endc 

